US06087380
1-Methyl-2-[(4-amidinophenyl)thiomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 27 from 1-methyl-2-[(4-cyanophenyl)thiomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide, and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 90% of theory, C28H29N5O3S (515.64) Rf value:0.24 (silica gel; ethyl acetate/ethanol/ammonia=50:45:5) ##EQU11##

reactant | 1-methyl-2-[(4-cyanophenyl)thiomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CSC2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)OCC | C28H26N4O3S
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethyl acetate ethanol ammonia | C(C)(=O)OCC.C(C)O.N
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[(4-amidinophenyl)thiomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 90% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CSC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC | InChI=1S/C28H29N5O3S.ClH/c1-3-36-26(34)15-16-33(21-7-5-4-6-8-21)28(35)20-11-14-24-23(17-20)31-25(32(24)2)18-37-22-12-9-19(10-13-22)27(29)30;/h4-14,17H,3,15-16,18H2,1-2H3,(H3,29,30);1H
